Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.98997072952
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.46321193384
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.8005272823299998
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],-1.10884818815
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.68301836612
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.15756534058
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.07147960982
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.03256154657
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:6][H:7],-1.07516957578
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[O:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.528033992461
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.36758269013
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]=[O:4],1.840936627
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.4074647281299995
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],5.55353725571
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.25772248247
[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.303360537900001
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.32605970652
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-7.45401765202
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.6409914338999998
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]/[C:4]([H:5])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:6][H:7],8.12939846377
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.01772128622
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.31068611474
[C:7]([H:8])#[C:9][H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],0.328573697071
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.66125803509
[H:1][O:2][O:3][C:4]1([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.08569674623870001
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.91154989851
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.07146756183
